US06124488
The reaction is carried out in a manner identical to that for (dimethylaminoethyl)-di-(2-pentyl)cyclopentadiene, the tosylate of N,N-di-n-butylaminoethanol being prepared in situ. The conversion was 88%. The (di-n-butylaminoethyl)-di-(2-pentyl)cyclopentadiene was obtained after preparative column purification on silica gel using, successively, petroleum ether (40-60° C.) and THF, followed by distillation under reduced pressure, the yield being 51%.

reactant | (dimethylaminoethyl)-di-(2-pentyl)cyclopentadiene | CN(C)CCC1=CC=CC1(C(C)CCC)C(C)CCC | C19H35N
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | N,N-di-n-butylaminoethanol | C(CCC)N(CCCC)C(C)O | C10H23NO
product | (di-n-butylaminoethyl)-di-(2-pentyl)cyclopentadiene | C(CCC)N(CCCC)CCC1=CC=CC1(C(C)CCC)C(C)CCC | C25H47N
